US07951824B2
2′-Cyano-6-methyl-[4,4′]bipyridinyl-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide
The title compound, was prepared from 6-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide in accordance with the general method of example 131, step 2 using 4-Bromo-2-cyanopyridine instead of 3-Trifluoromethyl-5-bromopyridine to yield the final compound as a off-white solid, MS (ISP): m/e=336.3 (M+H)+.

reactant | 6-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide | CC=1N=C(SC1)NC(=O)C1=NC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C | C17H22BN3O3S
reactant | 4-Bromo-2-cyanopyridine | BrC1=CC(=NC=C1)C#N | C6H3BrN2
product | 2′-Cyano-6-methyl-[4,4′]bipyridinyl-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide | CC=1N=C(SC1)NC(=O)C1=NC(=CC(=C1)C1=CC(=NC=C1)C#N)C | C17H13N5OS
